### PR TITLE
End to end subcircuit soundness

### LINKED ISSUE #37: [Foundation] Replacing subcircuit constraints with their `soundness` and `completeness` statements
this is already formulated (but not proven) in `Circuit.lean`: equivalence of `constraint_holds` on flattened constraints vs using subcircuits

I started the proof but it seemed quite annoying due to the many cases of `to_flat_operations`

Found a blog post with some helpful material: https://lean-lang.org/blog/2024-5-17-functional-induction/
eg `induction using to_flat_operations.induct with | ... ` should make the proof nicer
also learned that `unfold` + `split` is a general way to deal with a `match` definition

### PR DESCRIPTION
**Pull request by mitschabaude**
closes #37 

* Finishes the theorems that justify replacing subcircuit constraints with their soundness / completeness statements
* Finishes proofs for `Vector`
* => there are no remaining `sorry` proofs in the core lib!
* Prune imports across the project

### CODE REVIEW

File: Clean/Examples/Gadgets.lean [hunk 1]
```diff
@@ -1,15 +1,9 @@
...
-import Clean.Utils.Vector
-import Clean.Circuit.Expression
-import Clean.Circuit.Provable
-import Clean.Circuit.Basic
 import Clean.GadgetsNew.Add8.Addition8
 
 section
 
-#eval!
+#eval
```
Comment (mitschabaude) [inline Clean/Examples/Gadgets.lean:6]: could remove `!` because there's no `sorry` left!

File: Clean/Circuit/SubCircuit.lean [hunk 2]
```diff
@@ -3,59 +3,147 @@ import Clean.Circuit.Basic
...
+  -- empty vs non-empty lists, and different cases for the head in the non-empty case, at the same time.
+  induction ops using to_flat_operations.induct with
+  | case1 => tauto
+  -- we can handle all non-empty cases except `SubCircuit` at once
+  | case2 ops _ ih | case3 ops _ ih | case4 ops _ ih | case5 ops _ ih =>
+    dsimp only [to_flat_operations] at h
+    generalize to_flat_operations ops = flatops at h ih
+    cases ops
+    <;> cases flatops
+    <;> try dsimp only [constraints_hold, constraints_hold_from_list] at h; tauto
```
Comment (mitschabaude) [inline Clean/Circuit/SubCircuit.lean:69]: fanciest proof I did so far, the final tactic is applied to 4 * 2 * 2 = 16 cases at once 😄

File: Clean/Utils/Vector.lean [hunk 3]
```diff
@@ -11,42 +13,36 @@ instance [Repr α] {n: ℕ} : Repr (Vector α n) where
...
-    · aesop
-
-  theorem length_matches (v: Vector α n) : v.1.length = n := v.2
+  @[ext]
+  theorem ext (l : ℕ) (v w: Vector α l) : v.val = w.val → v = w := by
+    intro h
+    cases v
+    cases w
+    simp [Subtype.mk_eq_mk] at h
+    simp [h]
```
Comment (gio54321) [inline Clean/Utils/Vector.lean:22]: Didn't know about `ext`, very nice!
